US07919506B2
Step A: Preparation of 3-hydroxymethyl-5-trifluoromethyl-benzonitrile
A mixture of (3-bromo-5-trifluoromethyl-phenyl)-methanol (500 mg, 1.96 mmol), zinc cyanide (230 mg, 1.96 mmol) and tetrakis(triphenylphosphine) palladium (68 mg, 0.059 mmol) in DMF (2 ml) was heated by microwave at 160° C. for 20 minutes. The mixture was partitioned between ethyl ether (20 ml) and water (10 ml). The aqueous layer was extracted with ether and combined organic layers were washed with brine, dried (MgSO4) and concentrated in vacuo. The product was purified on Biotage column (12+M), eluting with 2% ethyl acetate in heptane (1 CV), 2-20% (10 CV), 20% (2CV) to yield the title compound (240 mg, 61%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 2.05 (s, 1H) 4.8 (s, 2H) 7.82 (s, 1H) 7.86 (s, 2H).

reactant | (3-bromo-5-trifluoromethyl-phenyl)-methanol | 1.96 mmol, 500 mg | BrC=1C=C(C=C(C1)C(F)(F)F)CO | C8H6BrF3O
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.96 mmol, 230 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium | 0.059 mmol, 68 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-hydroxymethyl-5-trifluoromethyl-benzonitrile | 240 mg, 61% | OCC=1C=C(C#N)C=C(C1)C(F)(F)F | C9H6F3NO
